US06696473B2
A. Preparation of 2-(5-Methyl-4-phenyl-2-thioxothiazol-3-yl)ethyl Acetate
Intermediate 3-(2-hydroxyethyl)-5-methyl-4-phenyl-3H-thiazole-2-thione was treated with acetic anhydride (1 equiv) and TEA (2 equiv) in CHCl3. After 12 h the product mixture was concentrated and chromatographed (silica gel, 0-40% EtOAc/Hex) to afford the title compound. 1H-NMR (CDCl3): δ 7.50-7.55 (3H, m), 7.28-7.32 (2H, m), 4.32 (2H, t), 4.26 (2H, t), 2.03 (3H, s), 1.93 (3H, s).

reactant | 3-(2-hydroxyethyl)-5-methyl-4-phenyl-3H-thiazole-2-thione | OCCN1C(SC(=C1C1=CC=CC=C1)C)=S | C12H13NOS2
reactant | acetic anhydride | 1 equiv | C(C)(=O)OC(C)=O | C4H6O3
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(5-Methyl-4-phenyl-2-thioxothiazol-3-yl)ethyl Acetate | C(C)(=O)OCCN1C(SC(=C1C1=CC=CC=C1)C)=S | C14H15NO2S2
